US07994317B2
a) Preparation of 3-amino-N-(2-(trifluoromethyl)benzyl)cyclohexanecarboxamide
To a solution of 3-(Boc-amino)cyclohexanecarboxylic acid (500 mg, 2.055 mmol, 1 equivalent) in dimethylformamide (10 ml) was added O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 781 mg, 2.055 mmol, 1 equivalent) and diisopropylethylamine (0.716 ml, 4.11 mmol, 2 equivalents). 2-trifluoromethyl benzylamine (360 mg, 2.055 mmol, 1 equivalent) was added and the reaction mixture was stirred at room temperature overnight. The solvent was evaporated to give the crude product, which was purified with RP-HPLC. The purified compound was treated with 50% TFA in DCM (20 ml) at room temperature for 2 hours, and then the solvents were removed in vacuo. The product (103 mg, 12% yield) was carried onto the next step without further purification. MS (ES+): m/e 301.06 [M+H]+.

reactant | 3-(Boc-amino)cyclohexanecarboxylic acid | 2.055 mmol, 500 mg, 1 equivalent | C(=O)(OC(C)(C)C)NC1CC(CCC1)C(=O)O | C12H21NO4
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.055 mmol, 781 mg, 1 equivalent | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 4.11 mmol, 0.716 ml, 2 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-trifluoromethyl benzylamine | 2.055 mmol, 360 mg, 1 equivalent | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-amino-N-(2-(trifluoromethyl)benzyl)cyclohexanecarboxamide | NC1CC(CCC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C15H19F3N2O
